US06043403
Synthesis of 2,2-bis(3-trimethylsilyl-indenyl)propane
5.45 g (20 mmol) of 2,2-bis(indenyl)propane prepared according to the procedure of example 1 was dissolved in 100 ml of ether. The solution thus obtained was taken to -20° C., and 22 ml of a 2.0 M solution of n-butyl-lithium in pentane was added, thus giving a suspension of dilithium-2,2-bis(indenyl)propane. 8.77 g (30.85 mmol) of dilithium 2,2-bis(indenyl)propane was dissolved in 100 ml of ether, and 10 ml of Me3SiCl (excess) was added at a temperature of -40° C. The resulting mixture was allowed to return to room temperature. The organic phase was then separated off, the solvent removed and the product dried in vacuo. 1H-NMR

reactant | 2,2-bis(indenyl)propane | 20 mmol, 5.45 g | C1(C=CC2=CC=CC=C12)C(C)(C)C1C=CC2=CC=CC=C12 | C21H20
reactant | n-butyl-lithium | C(CCC)[Li]
reactant | dilithium 2,2-bis(indenyl)propane | [Li][Li].C1(C=CC2=CC=CC=C12)C(C)(C)C1C=CC2=CC=CC=C12
reactant | dilithium 2,2-bis(indenyl)propane | 30.85 mmol, 8.77 g | C1(C=CC2=CC=CC=C12)C(C)(C)C1C=CC2=CC=CC=C12.[Li].[Li]
reactant | Me3SiCl | 10 ml | [Si](C)(C)(C)Cl | C3H9ClSi
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | pentane | CCCCC | C5H12
solvent | ether | 100 ml | CCOCC | C4H10O
product | 2,2-bis(3-trimethylsilyl-indenyl)propane | C[Si](C1=CC(C2=CC=CC=C12)C(C)(C)C1C=C(C2=CC=CC=C12)[Si](C)(C)C)(C)C | C27H36Si2
